US08133889B2
4-[(1R,5S)-3-Aza-bicyclo[3.1.0]hex-3-ylmethyl]-3,5-dimethyl-1H-pyrrole-2-carbaldehyde
To a solution of (1R,5S)-3-aza-bicyclo[3.1.0]hexane (10 mmoles) in acetic acid (10 ml) there are added 10 mmoles of 3,5-dimethyl-1H-pyrrole-2-carbaldehyde and formaldehyde (11 mmoles) 37% in water. The reaction mixture is stirred overnight at ambient temperature and then evaporated to dryness. Purification by flash chromatography on silica gel (SiO2; heptane/AcOEt) and then trituration in heptane to yield the title product.

reactant | (1R,5S)-3-aza-bicyclo[3.1.0]hexane | 10 mmoles | [C@@H]12CNC[C@H]2C1 | C5H9N
reactant | 3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 10 mmoles | CC1=C(NC(=C1)C)C=O | C7H9NO
reactant | formaldehyde | 11 mmoles | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-[(1R,5S)-3-Aza-bicyclo[3.1.0]hex-3-ylmethyl]-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | [C@@H]12CN(C[C@H]2C1)CC=1C(=C(NC1C)C=O)C | C13H18N2O
